US08802659B2
To a solution of methyl 1-((6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)naphthalen-2-yl)methyl)azetidine-3-carboxylate (100 mg, 0.25 mmol) in ethanol (10 mL) was added aqueous NaOH (3 mL, 20%) and refluxed for 1 h. Then the reaction was cooled to 0° C., the pH of the solution was adjusted to 6 with 1 M HCl, and concentrated. The residue was dissolved in dichloromethane, washed with water, dried and concentrated to give 1-((6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)naphthalen-2-yl)methyl)azetidine-3-carboxylic acid as a white solid (70 mg, yield: 70%). ESI-MS: 464.2 (M+H)+. HPLC: 98.64% 1H NMR (400 MHz, DMSO-d6) δ: 8.19 (d, 2H), 8.08 (d, 2H), 7.72 (d, 1H), 7.67 (d, 1H), 4.60-4.58 (m, 1H), 4.51 (s, 2H), 4.21 (d, 4H), 3.55-3.67 (m, 1H), 2.13 (d, 2H), 1.80 (d, 2H), 1.35-1.43 (q, 2H), 1.03-1.22 (m, 3H), 0.86 (s, 9H).

reactant | methyl 1-((6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)naphthalen-2-yl)methyl)azetidine-3-carboxylate | 0.25 mmol, 100 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2C=CC(=CC2=CC1)CN1CC(C1)C(=O)OC)C(F)(F)F | C27H34F3NO3
reactant | NaOH | 3 mL | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-((6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)naphthalen-2-yl)methyl)azetidine-3-carboxylic acid | 70 mg, yield: 70% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2C=CC(=CC2=CC1)CN1CC(C1)C(=O)O)C(F)(F)F | C26H32F3NO3
